US04634715
α-Azaalanyl-(L)-phenylalanine t-butyl ester (11)
Triethylamine (0.28 ml; 2 mmol) was added to a slurry of (L)-phenylalanine t-butyl ester hydrochloride (0.50 g; 1.94 mmol) in methylene chloride (4 ml). Carbonyldiimidazole (0.325 g; 2 mmol) was added, and stirring was continued for 30 minutes. Then methylhydrazine (0.11 ml; 2 mmol) was added over 5 minutes. Stirring was continued for 18 hours. Solvent was removed, and the resulting solid residue was partitioned between ether and water. The ether layer was washed twice with water and once with brine, and dried (MgSO4). Removal of solvent gave crude carbazide 11 as a colorless oil. Flash chromatography on silica gel (E. Merck No. 9385; 2×12 cm) in 100:1 methylene chloride: methanol gave pure 11 (0.480 g; 1.63 mmol; 84%): TLC (20:1 CH2Cl2 :CH3OH) Rf=0.3. MS m/e 294 (M+). Analysis: Calculated for C15H24N3O3 : C, 61.20 H, 8.22 N, 14.27. Found: C, 61.75 H, 8.28 N, 14.00. NMR (CDCl3) δ1.33 (9H,s); 3.00 (3H,s); 3.05 (2H,d,J=6); 3.6 (2H,bs); 4.63 (1H,d of t; J=8,6); 6.7-7.0 (1H, m); 7.25 (5H,s); IR (CHCl3): 3450, 3000, 1730, 1650 cm-1.

reactant | Triethylamine | 2 mmol, 0.28 ml | C(C)N(CC)CC | C6H15N
reactant | (L)-phenylalanine t-butyl ester hydrochloride | 1.94 mmol, 0.50 g | Cl.C(C)(C)(C)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | Carbonyldiimidazole | 2 mmol, 0.325 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylhydrazine | 2 mmol, 0.11 ml | CNN | CH6N2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH3OH | CO | CH4O
product | α-Azaalanyl-(L)-phenylalanine t-butyl ester | C(C)(C)(C)OC([C@@H](NC(N(N)C)=O)CC1=CC=CC=C1)=O | C15H23N3O3
